US06310086B1
tert-Butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxy-propyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-(2-ethoxyphenoxy)ethyl]carbamate (6.24 g) was dissolved in dry pyridine (9.4 ml), and pivaloyl chloride (1.54 ml) was added to the solution. The mixture was stirred overnight at room temperature, and a saturated aqueous sodium bicarbonate solution was added to the reaction mixture. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with a saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by column chromatography on aminopropyl silica gel (eluent:hexane/ethyl acetate=1/1) to give colorless amorphous (R)-3-[5-[2-[N-(tert-butoxycarbonyl)-N-[2-(2-ethoxyphenoxy)ethyl]amino]-propyl]-7-carbamoyl-2,3-dihydro-1H-indol-1-yl]propyl pivalate (4.30 g).

reactant | tert-Butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxy-propyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-(2-ethoxyphenoxy)ethyl]carbamate | 6.24 g | C(N)(=O)C=1C=C(C=C2CCN(C12)CCCO)C[C@@H](C)N(C(OC(C)(C)C)=O)CCOC1=C(C=CC=C1)OCC | C30H43N3O6
reactant | pivaloyl chloride | 1.54 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 9.4 ml | N1=CC=CC=C1 | C5H5N
product | (R)-3-[5-[2-[N-(tert-butoxycarbonyl)-N-[2-(2-ethoxyphenoxy)ethyl]amino]-propyl]-7-carbamoyl-2,3-dihydro-1H-indol-1-yl]propyl pivalate | 4.30 g | C(C(C)(C)C)(=O)OCCCN1CCC2=CC(=CC(=C12)C(N)=O)C[C@@H](C)N(CCOC1=C(C=CC=C1)OCC)C(=O)OC(C)(C)C | C35H51N3O7
